US07091357B2
The foregoing crude product was dissolved in CH2Cl2 (300 mL). Sodium acetate (2.6 g, 32 mmol) and PCC (32.7 g, 50 mmol) was added. After being stirred at room temperature for 2 h, ether (2000 mL) was added, the reaction mixture was filtered through Florisil, and the filtrate was concentrated. The residue was distilled at reduced pressure (80–84° C. at 0.2 mmHg) to give 6-oxo-hexanoic acid methyl ester (8.58 g, 60%) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 9.72 (1H, t, J=1.5 Hz), 3.62 (3H, s), 2.43 (2H, m), 2.29 (2H, m), 1.62 (4H, m); 13C NMR (75 MHz, CDCl3) δ 201.99, 173.64, 51.73, 43.66, 33.88, 24.53, 21.69.

reactant | Sodium acetate | 32 mmol, 2.6 g | C(C)(=O)[O-].[Na+]
reactant | PCC | 50 mmol, 32.7 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | ether | 2000 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 6-oxo-hexanoic acid methyl ester | 8.58 g, 60% | COC(CCCCC=O)=O | C7H12O3
